US09029370B2
(R)—N-(3-Chloro-4-(morpholin-2-yl)phenyl)-2-ethoxyisonicotinamide hydrochloride
In analogy to Example 83, step a) using 2-ethoxy-4-pyridinecarboxylic acid (CAS 91940-86-2) instead of 2-(trifluoromethyl)-4-pyridinecarboxylic acid (CAS 131747-41-6) and (+)-(R)-2-(4-Amino-2-chloro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester instead of (+)-(R)-2-(4-Amino-2-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester. Light yellow foam. MS (ISP): 362.0 ([M+H]+)

reactant | 2-ethoxy-4-pyridinecarboxylic acid | C(C)OC1=NC=CC(=C1)C(=O)O | C8H9NO3
reactant | (+)-(R)-2-(4-Amino-2-chloro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)C1=C(C=C(C=C1)N)Cl | C15H21ClN2O3
product | (R)—N-(3-Chloro-4-(morpholin-2-yl)phenyl)-2-ethoxyisonicotinamide hydrochloride | Cl.ClC=1C=C(C=CC1[C@@H]1CNCCO1)NC(C1=CC(=NC=C1)OCC)=O | InChI=1S/C18H20ClN3O3.ClH/c1-2-24-17-9-12(5-6-21-17)18(23)22-13-3-4-14(15(19)10-13)16-11-20-7-8-25-16;/h3-6,9-10,16,20H,2,7-8,11H2,1H3,(H,22,23);1H/t16-;/m0./s1
